US05547952
Example 7 2-[5-tert.-Butyl-3-(2-hydroxy-1,1-dimethylethyl)-4hydroxybenzylidene]-3,4-dihydro-3-oxo-4-(1H-tetrazol-5-ylmethyl)-2H-1, 4 -benzothiazine (compound No. 7-1)
2-[5-tert.-Butyl-4-hydroxy-3-[1,1-dimethyl-2-(tetrahydropyran-2-yloxy)ethyl]benzylidene]-3,4-dihydro-3-oxo-4-(1H-tetrazol-5-ylmethyl)-2H-1,4-benzothiazine (compound No. 2-2, 0.31 g) was dissolved in a mixture of methanol (5 ml) and chloroform (1 ml). To the mixture, p-toluenesulfonic acid monohydrate (0.05 g) was added and the mixture was stirred for 3 hours at 60° C. Saturated sodium chloride solution was added to the mixture and the whole was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated in vacuo. The oily residue was purified by silica gel column chromatography to give 0.16 g (60.7%) of the titled compound.

reactant | 2-[5-tert.-Butyl-4-hydroxy-3-[1,1-dimethyl-2-(tetrahydropyran-2-yloxy)ethyl]benzylidene]-3,4-dihydro-3-oxo-4-(1H-tetrazol-5-ylmethyl)-2H-1,4-benzothiazine | C(C)(C)(C)C=1C(=C(C=C(C=C2SC3=C(N(C2=O)CC2=NN=NN2)C=CC=C3)C1)C(COC1OCCCC1)(C)C)O | C30H37N5O4S
reactant | p-toluenesulfonic acid monohydrate | 0.05 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium chloride | [Cl-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[5-tert.-Butyl-3-(2-hydroxy-1,1-dimethylethyl)-4hydroxybenzylidene]-3,4-dihydro-3-oxo-4-(1H-tetrazol-5-ylmethyl)-2H-1, 4 -benzothiazine | 0.16 g, 60.7% | C(C)(C)(C)C=1C(=C(C=C(C=C2SC3=C(N(C2=O)CC2=NN=NN2)C=CC=C3)C1)C(CO)(C)C)O | C25H29N5O3S
